US09193741B2
Synthesis of 5-amino-2-cyclopropyl-7-methoxythiazolo[5,4-d]pyrimidine
A mixture of 5-amino-2-cyclopropyl-7-(methylsulfonyl)thiazolo[5,4-d]pyrimidine (54 mg, 0.2 mmol) and K2CO3 (69 mg, 0.5 mmol) in dioxane (10 ml) and methanol (5 ml) was stirred at room temperature overnight. The reaction mixture was evaporated in vacuo and purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio of 1/60), yielding the pure title compound (40 mg, 90%).

reactant | 5-amino-2-cyclopropyl-7-(methylsulfonyl)thiazolo[5,4-d]pyrimidine | 0.2 mmol, 54 mg | NC=1N=C(C2=C(N1)SC(=N2)C2CC2)S(=O)(=O)C | C9H10N4O2S2
reactant | K2CO3 | 0.5 mmol, 69 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
product | 5-amino-2-cyclopropyl-7-methoxythiazolo[5,4-d]pyrimidine | 40 mg, 90% | NC=1N=C(C2=C(N1)SC(=N2)C2CC2)OC | C9H10N4OS
